US04372970
Thionyl chloride (2.02 cm3, 0.265 mol) was added dropwise to a stirred solution of 2,3-dihydro-5-(1-hydroxy-2-methyl-1-propyl)benzofuran (5.10 g, 0.0265 mol) pyridine (2.16 cm3, 0.0265 mol) in dichloromethane (45 cm3) at 0°-5° C., and the mixture was heated to reflux for 3 hr. The mixture was poured into water and separated. The organic layer was washed with hydrochloric acid (2 N, 20 cm3), water, dried (Na2SO4), filtered and the solvent was removed. The residue was subjected to column chromatography on silica using toluene as the eluant. The appropriate fractions were combined and the solvent was removed to give 5-(1-chloro-2-methyl-1-propyl)-2,3-dihydrobenzofuran. (5.43 g, 0.028 mol, 97.2%) RF 0.68.

reactant | Thionyl chloride | 0.265 mol, 2.02 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 2,3-dihydro-5-(1-hydroxy-2-methyl-1-propyl)benzofuran | 0.0265 mol, 2.16 cm3, 5.10 g | OC(C(C)C)C=1C=CC2=C(CCO2)C1 | C12H16O2
reactant | water | O | H2O
solvent | dichloromethane | 45 cm3 | ClCCl | CH2Cl2
product | 5-(1-chloro-2-methyl-1-propyl)-2,3-dihydrobenzofuran | ClC(C(C)C)C=1C=CC2=C(CCO2)C1 | C12H15ClO
